US07335777B2
N-(4-Cyclohexyl-2-nitrophenyl)acetamide.
A mixture of 4-cyclohexylaniline (10.0 g, 57.1 mmol) and acetic anhydride (50 ml) was stirred at 50° C. for 1 hour. The resultant mixture was cooled in an ice-bath and a solution of potassium nitrate (10.0 g, 99.0 mmol) in conc. sulphuric acid (25 ml) was added drop-wise keeping the temperature at 15-18° C. After the addition, the mixture was poured into ice-water (400 g). The precipitate was filtered off, washed with water and dried. This crude product (12 g) contained a 1:1 mixture of mono- and dinitrated product. The desired product was isolated by column chromatography on silica gel, using a mixture of petroleum ether and ethyl acetate (9:1, v/v) as the eluent (6.5 g).

reactant | 4-cyclohexylaniline | 57.1 mmol, 10.0 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium nitrate | 99.0 mmol, 10.0 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | N-(4-Cyclohexyl-2-nitrophenyl)acetamide | C1(CCCCC1)C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C14H18N2O3
